US06133303
7-[2-(1H-1-Imidazolyl)ethoxy]-4-chromanone
Under N2, a solution of 2.0 g (0.012 mol) of 7-hydroxy-4-chromanone (J. Org. Chem., 1994;59:1216) in 25 mL of THF was treated with 1.29 g (0.013 mol) of 2-(1H-1-imidazolyl)-1-ethanol and 3.15 g (0.012 mol) of triphenylphosphine. The solution was cooled in ice and treated over 10 minutes with a solution of 1.89 mL (0.012 mol) of diethyl azodicarboxylate in 5.0 mL of THF. After stirring at room temperature for 3 days, the solution was diluted with EtOAc and washed with saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Chromatography on silica gel, eluting with a gradient of CHCl3 to CHCl3 /MeOH (96/4) gave the product which was recrystallized from EtOAc/hexane to give 0.92 g (29.7% yield) of a white solid, mp 128-130° C. The structure was confirmed by NMR and mass spectroscopy. MS m/z 259 (M+H+).

reactant | 7-hydroxy-4-chromanone | 0.012 mol, 2.0 g | OC1=CC=C2C(CCOC2=C1)=O | C9H8O3
reactant | 2-(1H-1-imidazolyl)-1-ethanol | 0.013 mol, 1.29 g | N1(C=NC=C1)CCO | C5H8N2O
reactant | triphenylphosphine | 0.012 mol, 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.012 mol, 1.89 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-[2-(1H-1-Imidazolyl)ethoxy]-4-chromanone | 0.92 g, 29.7% yield | N1(C=NC=C1)CCOC1=CC=C2C(CCOC2=C1)=O | C14H14N2O3
